US04404207
Using the method of Example 5, 3.0 g of 8-amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid was converted to 6,7-dihydro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. The crude product was dissolved in 50 ml of trifluoroacetic acid and 2 g of rhodium on alumina was added. The mixture was hydrogenated at 20° C. for 18 hours at 50 psi of hydrogen gas. The mixture was filtered, evaporated to dryness and dissolved in 10 percent sodium hydroxide solution. The solution was acidified with glacial acetic acid. The product was recrystallized from N,N-dimethyformamide to provide tan crystals of 6,7-dihydro-5-methyl-1-oxo-8-(1-pyrrolidyl)-1H,5H-benzo[ij]quinolizine-2-carboxylicacid, m.p. 170°-174° C. Nuclear magnetic resonance analysis showed water and N,N-dimethyl formamide present in the solid. Analysis: Calculated for C18H20N2O3.1/10(CH3)2NCHO.1/2H2O: %C, 66.8; %H, 6.6; %N, 9.2; Found: %C, 66.7; %H, 6.2; %N, 9.2.

reactant | 8-amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.0 g | NC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H14N2O3
reactant | 6,7-dihydro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2N2C=CC=C2 | C18H16N2O3
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | rhodium on alumina | 2 g | [Rh] | Rh
product | 6,7-dihydro-5-methyl-1-oxo-8-(1-pyrrolidyl)-1H,5H-benzo[ij]quinolizine-2-carboxylicacid | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2N2CCCC2 | C18H20N2O3
